US04490369
(b) 1-[7,8-Dimethyl-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}ethyl)-amino]-propane hydrochloride
This compound was prepared analogous to Example 1(b) by reacting 1-(7,8-dimethyl-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane with N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethyl-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | CC1=CC2=C(CC(N(C=C2)CCCCl)=O)C=C1C | C15H18ClNO
reactant | N-methyl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-amine | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
product | 1-[7,8-Dimethyl-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}ethyl)-amino]-propane hydrochloride | Cl.CC1=CC2=C(CC(N(C=C2)CCCN(CCC2=CC(=C(C=C2)OC)OC)C)=O)C=C1C | InChI=1S/C26H34N2O3.ClH/c1-19-15-22-10-14-28(26(29)18-23(22)16-20(19)2)12-6-11-27(3)13-9-21-7-8-24(30-4)25(17-21)31-5;/h7-8,10,14-17H,6,9,11-13,18H2,1-5H3;1H
